US05858995
A mixture of 2-methyl-7-nitro-3-phthalimidomethylbenzo[b]furan (575 mg) and hydrazine monohydrate (172 mg) in ethanol (10 ml) was refluxed for 5 hours. The reaction mixture was cooled, acidified with 1N-hydrochloric acid and filtered. The filtrate was neutralized with aqueous saturated sodium bicarbonate and the ethanol in the mixture was evaporated in vacuo. The separated solid was collected, washed with water and dried to give 3-aminomethyl-2-methyl-7-nitrobenzo[b]furan (290 mg).

reactant | 2-methyl-7-nitro-3-phthalimidomethylbenzo[b]furan | 575 mg | CC1=C(C2=C(O1)C(=CC=C2)[N+](=O)[O-])CN2C(C=1C(C2=O)=CC=CC1)=O | C18H12N2O5
reactant | hydrazine monohydrate | 172 mg | O.NN
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-aminomethyl-2-methyl-7-nitrobenzo[b]furan | 290 mg | NCC=1C2=C(OC1C)C(=CC=C2)[N+](=O)[O-] | C10H10N2O3
